US07834035B2
To a mixture of Ethyl nipecotate (2 g, 12.72 mmol) in THF (25 ml, 0.5M) was added DIEA (4.79 ml, 27.99 mmol). The reaction mixture was cooled to 0° C. and 4-Fluoro-benzoyl chloride (2.5 g-15.76 mmol) was slowly added. The reaction was to go up to R.T and stirred for 24 h. The solution was concentrated and DCM was added following by HCl 1N. The aqueous phase was separated and organic phase was extracted twice with HCl 1N and twice with water, dried over Na2SO4, filtered and concentrated to afford 1.15 g (33%) of 1-(4-Fluoro-benzoyl)-piperidine-3-carboxylic acid ethyl ester as a colorless oil which can be used without further purification.

reactant | Ethyl nipecotate | 12.72 mmol, 2 g | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | DIEA | 27.99 mmol, 4.79 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-Fluoro-benzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | THF | 0.5M, 25 ml | C1CCOC1 | C4H8O
product | 1-(4-Fluoro-benzoyl)-piperidine-3-carboxylic acid ethyl ester | 1.15 g, 33% | C(C)OC(=O)C1CN(CCC1)C(C1=CC=C(C=C1)F)=O | C15H18FNO3
